US07989622B2
N-(3-chloroquinoxalin-2-yl)-3-nitrobenzenesulfonamide (700 mg, 1.92 mmol), 3-methoxy-5-nitroaniline (645 mg, 3.84 mmol) and p-xylene (7 mL) were combined and heated to 140° C., then stirred for 16 hours at 130° C. The reaction was allowed to cool, placed in a sep. funnel, diluted with DCM, and washed with 2M HCl and brine and concentrated in vacuo. The resulting solid was washed with Et2O to give N-(3-(3-methoxy-5-nitro-phenylamino)quinoxalin-2-yl)-3-nitrobenzenesulfonamide (400 mg, 42%). MS (EI) m/z for C21H16N6O7S: 496.94 (MH+).

reactant | N-(3-chloroquinoxalin-2-yl)-3-nitrobenzenesulfonamide | 1.92 mmol, 700 mg | ClC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C14H9ClN4O4S
reactant | 3-methoxy-5-nitroaniline | 3.84 mmol, 645 mg | COC=1C=C(N)C=C(C1)[N+](=O)[O-] | C7H8N2O3
reactant | p-xylene | 7 mL | CC=1C=CC(=CC1)C | C8H10
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(3-(3-methoxy-5-nitro-phenylamino)quinoxalin-2-yl)-3-nitrobenzenesulfonamide | 400 mg, 42% | COC=1C=C(C=C(C1)[N+](=O)[O-])NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C21H16N6O7S
